US08808703B2
Step 2: (S)-2,3-bis(dodecyloxy)propan-1-ol
To a solution of (R)-((2,3-bis(dodecyloxy)propoxy)methyl)benzene (1 eq) in EtOH (0.1 M) was added palladium hydroxide (1.1 eq). The reaction mixture was stirred under hydrogen (1 atm) overnight. The palladium was filtered off and the filtrate was concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 0-10% EtOAc/Hex to give the product.

reactant | (R)-((2,3-bis(dodecyloxy)propoxy)methyl)benzene | 1 eq | C(CCCCCCCCCCC)O[C@@H](COCC1=CC=CC=C1)COCCCCCCCCCCCC | C34H62O3
solvent | EtOH | 0.1 M | CCO | C2H6O
catalyst | palladium hydroxide | 1.1 eq | [OH-].[Pd+2].[OH-]
product | (S)-2,3-bis(dodecyloxy)propan-1-ol | C(CCCCCCCCCCC)O[C@@H](CO)COCCCCCCCCCCCC | C27H56O3
